US08212041B2
N-((6-(3-Chloro-4-fluorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine
N-((6-Bromo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine. To a suspension of tert-butyl (6-bromo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methylcarbamate (0.900 g, 2.75 mmol) in CH2Cl2 (10 mL) was added TFA (0.848 ml, 11.0 mmol) and the mixture stirred at rt. After 30 minutes additional TFA (0.848 ml, 11.0 mmol) was added, and the mixture stirred at rt 2 h more then concentrated. The residue was taken up into 2-butanol (5 mL) and combined with 8-chloro-3-methoxy-1,5-naphthyridine (0.535 g, 2.75 mmol) in a 5 mL microwave vessel. The vessel was sealed and the mixture heated in the microwave for 10 min at 120 C with a 60 sec prestir. The mixture was concentrated, diluted with DCM and stirred with 2N NaOH (pH 14) for 30 minutes. The solid was filtered to afford the title compound as a beige solid.

reactant | N-((6-Bromo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine | BrC=1C=CC=2N(C1)C(=NN2)CNC2=CC=NC1=CC(=CN=C21)OC | C16H13BrN6O
reactant | tert-butyl (6-bromo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methylcarbamate | 2.75 mmol, 0.900 g | BrC=1C=CC=2N(C1)C(=NN2)CNC(OC(C)(C)C)=O | C12H15BrN4O2
reactant | TFA | 11.0 mmol, 0.848 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 11.0 mmol, 0.848 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 2.75 mmol, 0.535 g | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-((6-(3-Chloro-4-fluorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine | ClC=1C=C(C=CC1F)C=1C=CC=2N(C1)C(=NN2)CNC2=CC=NC1=CC(=CN=C21)OC | C22H16ClFN6O
